US06242450B1
A mixture of 0.55 gm (1.8 mMol) 1-tert-butoxycarbon-yl-4-(quinoxalin-2-yl)-1,2,5,6-tetrahydropyridine and 0.1 gm 5% palladium on carbon in 10 mL methanol was stirred at room temperature for 45 minutes under a hydrogen atmosphere. The reaction mixture was then filtered and the filtrate concentrated under reduced pressure to provide 0.47 gm (84%) of 1-tert-butoxycarbonyl-4-(quinoxalin-2-yl)piperidine as a yellow oil.

reactant | 1-tert-butoxycarbon-yl-4-(quinoxalin-2-yl)-1,2,5,6-tetrahydropyridine | 1.8 mMol, 0.55 gm | C(C)(C)(C)OC(=O)N1CC=C(CC1)C1=NC2=CC=CC=C2N=C1 | C18H21N3O2
catalyst | palladium on carbon | 0.1 gm | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | 1-tert-butoxycarbonyl-4-(quinoxalin-2-yl)piperidine | 0.47 gm, 84% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC2=CC=CC=C2N=C1 | C18H23N3O2
